US07932272B2
4-((S)-1-Phenyl-ethoxy)-benzylamine
Next, to a solution of lithium aluminum hydride (68 mg, 1.78 mmol) in tetrahydrofuran (5.0 mL) was added a solution of the resulting 4-(1-phenyl-ethoxy)-benzonitrile (159 mg, 0.712 mmol) in tetrahydrofuran (1 mL) on an ice bath, which was stirred under reflux for 2 hours. The reaction solution was allowed to room temperature, a mixture solvent of methanol and water (9:1) was added, an aqueous solution of saturated ammonium chloride was further added, then, ethyl acetate and water were added for partitioning, the organic layer was dried over anhydrous magnesium sulfate, then, the solvent was evaporated to obtain the title compound (172 mg, quantitatively) as a yellow oily substance.

reactant | lithium aluminum hydride | 1.78 mmol, 68 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(1-phenyl-ethoxy)-benzonitrile | 0.712 mmol, 159 mg | C1(=CC=CC=C1)C(C)OC1=CC=C(C#N)C=C1 | C15H13NO
reactant | methanol | CO | CH4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((S)-1-Phenyl-ethoxy)-benzylamine | C1(=CC=CC=C1)[C@H](C)OC1=CC=C(CN)C=C1 | C15H17NO
